US05859007
A mixture of N-Isopropyl-N-(3-methoxy-phenyl) bromoacetamide, prepared as in Part B, (12.0 g 41.9 mmol), N-phenyl phenylenediamine (7.7 g, 41.9 mmol) and potassium carbonate (5.79 g) in DMF (100 mL) is stirred at RT for 20 h. The reaction mixture is filtered through celite and the filtrate diluted with ethyl acetate (150 mL) and washed with water (2×100 mL), 2N hydrochloric acid (2×100 mL), 1N aqueous sodium hydrogen carbonate (100 mL), dried (K2CO3 /MgSO4), and concentrated in vacuo. Purification by silica gel flash column chromatography using 20% ethyl acetate in hexane as eluent gave 8.2 g of N-Isopropyl-N-(3-methoxy-phenyl)-2-(2-phenylamino-phenylamino) acetamide as a light brown foam: 1H NMR (300 MHz, CDCl3) δ7.43 (t, 1H, J=8.0), 7.3-7.1 (m, 3H), 7.02 (m, 2H), 6.9-6.6 (m, 7H), 6.36 (d, 1H, J=7.8), 5.3 (s, br, 1H), 4.95 (m, 1H, J=6.8), 3.88 (s, 3H), 3.53 (s, 2H), 1.06 (m, 6H).

reactant | N-Isopropyl-N-(3-methoxy-phenyl) bromoacetamide | C(C)(C)N(C(CBr)=O)C1=CC(=CC=C1)OC | C12H16BrNO2
reactant | N-phenyl phenylenediamine | 41.9 mmol, 12.0 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | potassium carbonate | 5.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-Isopropyl-N-(3-methoxy-phenyl)-2-(2-phenylamino-phenylamino) acetamide | 8.2 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC(=CC=C1)OC | C24H27N3O2
